US07547729B2
1-(4-Phenoxyphenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one
This compound was synthesized from 4′-phenoxyacetophenone and 3,5-dimethyl-4-hydroxybenzaldehyde according to general method 1 described earlier.

reactant | 4′-phenoxyacetophenone | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H12O2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
product | 1-(4-Phenoxyphenyl)-3-(4-hydroxy-3,5-dimethylphenyl)prop-2-en-1-one | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C=CC1=CC(=C(C(=C1)C)O)C)=O | C23H20O3
